US09290451B2
b) 6-Cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid
Sodium hydride (0.29 g, 8.4 mmol) was added in portion to a solution of cyclopropylmethanol (CAN 2516-33-8, 0.36 g, 5 mmol) in DMF (3 mL) and the mixture was stirred at room temperature for 2 h. 6-Chloro-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid methyl ester (0.44 g, 1.68 mmol) was added to the mixture and the resulting solution was stirred at 110° C. overnight. After concentration, water (20 mL) was added to the residue and the solution was acidified with an aqueous solution of hydrochloride (6 N), then extracted with ethyl acetate (2×20 mL). The combined organic phase was washed with brine (20 mL), dried over anhydrous sodium sulfate, filtered and concentrated to give a residue. The residue was purified by prep-TLC (eluting with 50% ethyl acetate in petroleum ether) to give the target compound (0.07 g, 14%); MS (EI): m/e=285.1 [M+H]+.

reactant | Sodium hydride | 8.4 mmol, 0.29 g | [H-].[Na+]
reactant | cyclopropylmethanol | 5 mmol, 0.36 g | C1(CC1)CO | C4H8O
reactant | 6-Chloro-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid methyl ester | 1.68 mmol, 0.44 g | COC(=O)C1=NC(=C(C=C1)N1CC(C1)(F)F)Cl | C10H9ClF2N2O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 6-Cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid | 0.07 g, 14% | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)N1CC(C1)(F)F | C13H14F2N2O3
